US04490533
B. 1-[3-(6-Dimethylaminomethyl-2-pyridylthio)propylamino]-1-methylthio-2-nitroethene
A mixture of 3-(6-dimethylaminomethyl-2-pyridylthio)-propylamine (1.13 g, 0.005 mol) and 1,1-bis(methylthio)-2-nitroethene (0.86 g, 0.0052 mol) in acetonitrile (10 ml) is warmed briefly to effect solution and then allowed to stand at ambient temperature for 18 hours. The solvent is evaporated and the residue is chromotographed on silica gel (50 g) eluting with 3-7% methanol/chloroform to give 1.25 g of a glassy product.

reactant | 3-(6-dimethylaminomethyl-2-pyridylthio)-propylamine | 0.005 mol, 1.13 g | CN(C)CC1=CC=CC(=N1)SCCCN | C11H19N3S
reactant | 1,1-bis(methylthio)-2-nitroethene | 0.0052 mol, 0.86 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[3-(6-Dimethylaminomethyl-2-pyridylthio)propylamino]-1-methylthio-2-nitroethene | 1.25 g | CN(C)CC1=CC=CC(=N1)SCCCNC(=C[N+](=O)[O-])SC | C14H22N4O2S2
